US04812458
2 g 6-azido-2,3-dihydroxyquinoxaline is suspended in 100 ml glacial acetic acid. To the suspension is added 16 ml fuming nitric acid at 24° C. The mixture is stirred at 24° C. for 4 h giving a precipitate of 1.9 g (78%) 6-azido-2,3-dihydroxy-7-nitroquinoxaline.

reactant | 6-azido-2,3-dihydroxyquinoxaline | 2 g | N(=[N+]=[N-])C=1C=C2N=C(C(=NC2=CC1)O)O | C8H5N5O2
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 6-azido-2,3-dihydroxy-7-nitroquinoxaline | 1.9 g, 78% | N(=[N+]=[N-])C=1C=C2N=C(C(=NC2=CC1[N+](=O)[O-])O)O | C8H4N6O4
